US04036979
A solution of 6.27 grams of 4,5,6,7-tetrahydrobenzo[b]thien-4-yl isocyanate in 200 ml. of diethyl ether is charged with gaseous dimethylamine introduced via a capillary tube with stirring. After 0.5 hour of bubbling, the gas flow is terminated, and the mixture is evaporated to dryness to give a solid residue. This is crystallized from acetone-hexane-ether to give 1,1-dimethyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea melting at 117° C. to 120° C.

reactant | 4,5,6,7-tetrahydrobenzo[b]thien-4-yl isocyanate | 6.27 grams | S1C2=C(C=C1)C(CCC2)N=C=O | C9H9NOS
reactant | dimethylamine | CNC | C2H7N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1,1-dimethyl-3-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)urea | CN(C(=O)NC1CCCC=2SC=CC21)C | C11H16N2OS
